US06573273B1
Triethylamine (765 mg, 7.56 mmol) was added to a solution of 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.5 g, 5.04 mmol) in 1-methyl-2-pyrrolidinone (100 mL). Butyl isocyanate (549 mg, 5.55 mmol) was added dropwise with stirring. The reaction mixture was allowed to stir overnight and then it was poured into water (500 mL). The pH was adjusted to 10 using solid potassium carbonate. The resulting precipitate was isolated by filtration, washed with water and then purified by column chromatography (silica gel eluting with 5% methanol in dichloromethane and then with 10% methanol in dichloromethane. The purified material was recrystallized from acetonitrile to provide 800 mg of N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-butylurea as a white solid, m.p. 185.5-186.4° C. Analysis: Calculated for C22H32N6O: %C, 66.64; %H, 8.13; %N, 21.29; Found: %C, 66.38; %H, 8.19; %N, 21.10.

reactant | Triethylamine | 7.56 mmol, 765 mg | C(C)N(CC)CC | C6H15N
reactant | 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 5.04 mmol, 1.5 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C17H23N5
reactant | Butyl isocyanate | 5.55 mmol, 549 mg | C(CCC)N=C=O | C5H9NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 500 mL | O | H2O
product | N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-butylurea | 800 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)NCCCC)CCCC | C22H32N6O
